US05656629
Sodium (338 mg) was dissolved in ethanol (30 mL) and 1-(ethoxycarbonylmethyl)benzimidazole (3.0 g, 14.7 mmol) and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.6 g) were added. The reaction mixture was refluxed overnight, the solvent was stripped and the residue was treated with water and acetic acid. A precipitate formed which was collected by filtration and washed with water to afford 1.96 g (75%) of 1-cyclopentyl-3-ethyl-6-[1-benzimidazolylmethyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 256°-259° C.

reactant | Sodium | 338 mg | [Na] | Na
reactant | 1-(ethoxycarbonylmethyl)benzimidazole | 14.7 mmol, 3.0 g | C(C)OC(=O)CN1C=NC2=C1C=CC=C2 | C11H12N2O2
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 1.6 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | water | O | H2O
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-ethyl-6-[1-benzimidazolylmethyl]pyrazolo[3,4-d]pyrimidin-4-one | 1.96 g, 75% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC=2NC1=C(N2)C=CC=C1)CC | C20H22N6O
